US04391818
To a solution of 9.1 g of 6-(4-nitrophenyl)hexanoic acid in 200 ml of dried tetrahydrofuran was added, dropwise, a solution of borane-dimethyl sulfide complex (0.042 mole) in 40 ml of dried tetrahydrofuran. The resulting mixture was stirred at room temperature for 16 hours and then heated at reflux for 1 hour before it was cooled again to room temperature. Water (10 ml) was added, the mixture was stirred for 15 minutes, most of the solvent was removed, and water was added to the residue. The resultant aqueous mixture was extracted with diethyl ether and the extract was washed with aqueous saturated sodium bicarbonate solution, water, and aqueous saturated sodium chloride solution and dried over magnesium sulfate. The solvent was then evaporated to leave 6-(4-nitrophenyl)hexanol as a yellow oil.

reactant | 6-(4-nitrophenyl)hexanoic acid | 9.1 g | [N+](=O)([O-])C1=CC=C(C=C1)CCCCCC(=O)O | C12H15NO4
reactant | Water | 10 ml | O | H2O
solvent | tetrahydrofuran | 200 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 40 ml | O1CCCC1 | C4H8O
product | 6-(4-nitrophenyl)hexanol | [N+](=O)([O-])C1=CC=C(C=C1)CCCCCCO | C12H17NO3
